US06613786B2
Bromine, Br2 (16 ml, 311 mmol) was added in small portions to a solution of 2-nitroanisole (17.1 ml, 140 mmol) in glacial acetic acid (80 ml). The reaction mixture was then heated at 60° C. for one hour. The reaction was poured into 400 ml water, and extracted with 600 ml diethyl ether/600 ml saturated NaHSO3 (aqueous). The organic layer was washed with NaHSO3 solution, then with water, dried over sodium sulfate, and concentrated under vacuum. The residue was recrystallized from diethyl ether to give 28.4 g (87%) of 4-bromo-2-nitroanisole. 1H NMR (300 MHz, CDCl3) δ7.970 (1H, d, J=2.5 Hz), 7.64 (1H, dd, J=8.9, 2.4 Hz), 7.00 (1H, d, J=8.9 Hz), 3.96 (3H, s).

reactant | Bromine | BrBr | Br2
reactant | Br2 | 311 mmol, 16 ml | BrBr | Br2
reactant | 2-nitroanisole | 140 mmol, 17.1 ml | [N+](=O)([O-])C1=C(C=CC=C1)OC | C7H7NO3
reactant | water | 400 ml | O | H2O
solvent | acetic acid | 80 ml | C(C)(=O)O | C2H4O2
product | 4-bromo-2-nitroanisole | 28.4 g, 87% | BrC1=CC(=C(C=C1)OC)[N+](=O)[O-] | C7H6BrNO3
